US05395846
To 3-hydroxytricyclo[3.3.1.13,7 ]decan- 1-amine (5 g; 0.03 mole) dissolved in dichloromethane (140 ml) with gentle heating is added triethylamine (6 g; 0.06 mole) and cooled in an ice bath. Triphenylmethyl chloride (8.30 g; 0.03 mole) in CH2Cl2 (10 ml) is added all at once. The reaction is stirred in an ice bath for 10 minutes, warmed to room temperature and then refluxed for 3 hours. The reaction is then filtered and the filtrate evaporated to dryness. The reaction products are separated on HPLC, using 15% ethyl acetate/hexane and the product is then recrystallized from ethyl acetate/pet. ether to give N-trityl-3-hydroxytricyclo-[3.3.1.13,7 ]decan-1-amine (m.p. 184°-186° C.) which is used directly in step C.

reactant | 3-hydroxytricyclo[3.3.1.13,7 ]decan- 1-amine | 0.03 mole, 5 g | OC12CC3(CC(CC(C1)C3)C2)N | C10H17NO
reactant | triethylamine | 0.06 mole, 6 g | C(C)N(CC)CC | C6H15N
reactant | Triphenylmethyl chloride | 0.03 mole, 8.30 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-trityl-3-hydroxytricyclo-[3.3.1.13,7 ]decan-1-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC12CC3(CC(CC(C1)C3)C2)O | C29H31NO
